US04621084
A solution of 3,7-dimethyl-2-(4-hydroxy-3-nitrophenyl)imidazo[1,2-a]pyridine (2.6 g) in a mixture of ethanol (200 ml) and tetrahydrofuran (100 ml) was hydrogenated over 10% palladium-carbon (wet. 2.0 g) under an atomospheric pressure of hydrogen at ambient temperature for 3 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 3,7-dimethyl-2-(3-amino-4-hydro-xyphenyl)imidazo[1,2-a]pyridine (1.25 g). mp. 251°-253° C.

reactant | 3,7-dimethyl-2-(4-hydroxy-3-nitrophenyl)imidazo[1,2-a]pyridine | 2.6 g | CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)O)[N+](=O)[O-] | C15H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
product | 3,7-dimethyl-2-(3-amino-4-hydro-xyphenyl)imidazo[1,2-a]pyridine | 1.25 g | CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)O)N | C15H15N3O
